US08022062B2
Combine 7-chloro-6-[4-(4-fluorobenzylcarbamoyl)-benzylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (23 mg, 0.05 mmol) with 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's reagent) (23 mg, 0.05 mmol) in anhydrous 1,4-dioxane (1 mL) in a sealed tube and heat at 100° C. for 2 h Cool the reaction mixture to room temperature, concentrate in vacuo and purify the residue by SCX chromatography to obtain 7-chloro-6-[4-(4-fluorobenzylthiocarbamoyl)-benzylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a yellow oil.

reactant | 7-chloro-6-[4-(4-fluorobenzylcarbamoyl)-benzylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.05 mmol, 23 mg | ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)C(NCC1=CC=C(C=C1)F)=O | C25H24ClFN2OS
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 0.05 mmol, 23 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 7-chloro-6-[4-(4-fluorobenzylthiocarbamoyl)-benzylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)C(NCC1=CC=C(C=C1)F)=S | C25H24ClFN2S2
